US07968538B2
1,2,3,4-Tetrahydro-6,7-dimethoxynaphthalen-1-amine
3,4-Dihydro-6,7-dimethoxynaphthalen-1(2H)-one (5.00 g, 24.2 mmol), titanium(IV) isopropoxide (14.1 mL, 48.5 mmol) and 2 M solution of ammonia in ethanol (60.6 mL, 121 mmol) were stirred at room temperature for 6 h. The reaction was cooled to 0° C. and sodium borohydride was added portionwise during 10 min. (1.37 g, 36.4 mmol); the resultant mixture was stirred at rt for an additional 3 h. The reaction was quenched by pouring it into ammonium hydroxide (2 M, 130 mL), the precipitate that formed was filtered off and washed with ethyl acetate (25 mL×3). The organic layer was separated and the remaining aqueous layer was extracted with ethyl acetate (25 mL×2). The combined organic extracts were washed with 1 M HCl (50 mL). The acidic aqueous extracts were washed with ethyl acetate (100 mL), then treated with aqueous sodium hydroxide (2 M) to pH 10-12, and extracted with ethyl acetate (75 mL×3). The combined organic extracts were washed with brine (75 mL), dried (Na2SO4), and concentrated in vacuo to afford the desired product (200 mg, 4% yield). 1H NMR (400 MHz, CDCl3): δ 6.95 (s, 1H), 6.56 (s, 1H), 3.92 (m, 1H), 3.88 (s, 3H), 3.85 (s, 3H), 2.71 (m, 2H), 1.97 (m, 2H), 1.76 (m, 2H).

reactant | 3,4-Dihydro-6,7-dimethoxynaphthalen-1(2H)-one | 24.2 mmol, 5.00 g | COC=1C=C2CCCC(C2=CC1OC)=O | C12H14O3
reactant | ammonia | N | H3N
reactant | ethanol | 121 mmol, 60.6 mL | C(C)O | C2H6O
reactant | sodium borohydride | [BH4-].[Na+]
catalyst | titanium(IV) isopropoxide | 48.5 mmol, 14.1 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 1,2,3,4-Tetrahydro-6,7-dimethoxynaphthalen-1-amine | 200 mg, 4% yield | COC=1C=C2CCCC(C2=CC1OC)N | C12H17NO2
